* NGSPICE file created from inverter.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_BZBQCZ a_n173_n150# a_n78_n150# a_63_n238# a_n129_n238#
+ w_n311_n360# a_114_n150# a_18_n150# a_n33_172#
X0 a_114_n150# a_63_n238# a_18_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X1 a_n78_n150# a_n129_n238# a_n173_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
X2 a_18_n150# a_n33_172# a_n78_n150# w_n311_n360# sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.5e+06u l=180000u
C0 a_n33_172# a_63_n238# 0.02fF
C1 a_n78_n150# a_n173_n150# 0.17fF
C2 a_63_n238# a_18_n150# 0.00fF
C3 a_63_n238# a_n129_n238# 0.04fF
C4 a_114_n150# a_18_n150# 0.17fF
C5 a_114_n150# a_n173_n150# 0.04fF
C6 a_n33_172# a_18_n150# 0.01fF
C7 a_n33_172# a_n129_n238# 0.02fF
C8 a_114_n150# a_n78_n150# 0.11fF
C9 a_n33_172# a_n78_n150# 0.00fF
C10 a_114_n150# a_63_n238# 0.01fF
C11 a_n173_n150# a_18_n150# 0.11fF
C12 a_n173_n150# a_n129_n238# 0.00fF
C13 a_n78_n150# a_18_n150# 0.17fF
C14 a_n78_n150# a_n129_n238# 0.01fF
C15 a_114_n150# w_n311_n360# 0.19fF
C16 a_18_n150# w_n311_n360# 0.13fF
C17 a_n78_n150# w_n311_n360# 0.13fF
C18 a_n173_n150# w_n311_n360# 0.19fF
C19 a_63_n238# w_n311_n360# 0.21fF
C20 a_n129_n238# w_n311_n360# 0.21fF
C21 a_n33_172# w_n311_n360# 0.16fF
.ends

.subckt sky130_fd_pr__pfet_01v8_UTJXZH VSUBS a_n33_131# w_n311_n319# a_114_n100# a_63_n197#
+ a_18_n100# a_n129_n197# a_n173_n100# a_n78_n100#
X0 a_18_n100# a_n33_131# a_n78_n100# w_n311_n319# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=180000u
X1 a_114_n100# a_63_n197# a_18_n100# w_n311_n319# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=180000u
X2 a_n78_n100# a_n129_n197# a_n173_n100# w_n311_n319# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=180000u
C0 a_114_n100# a_n173_n100# 0.03fF
C1 a_114_n100# w_n311_n319# 0.13fF
C2 a_18_n100# a_n173_n100# 0.07fF
C3 a_18_n100# w_n311_n319# 0.09fF
C4 a_63_n197# a_n129_n197# 0.04fF
C5 a_n33_131# w_n311_n319# 0.09fF
C6 a_n78_n100# a_n173_n100# 0.13fF
C7 a_n78_n100# w_n311_n319# 0.09fF
C8 a_114_n100# a_63_n197# 0.00fF
C9 a_63_n197# a_18_n100# 0.00fF
C10 a_n33_131# a_n129_n197# 0.02fF
C11 a_n78_n100# a_n129_n197# 0.00fF
C12 a_n33_131# a_63_n197# 0.02fF
C13 w_n311_n319# a_n173_n100# 0.13fF
C14 a_114_n100# a_18_n100# 0.13fF
C15 a_n33_131# a_18_n100# 0.00fF
C16 a_n78_n100# a_114_n100# 0.07fF
C17 a_n78_n100# a_18_n100# 0.13fF
C18 a_n78_n100# a_n33_131# 0.00fF
C19 a_n129_n197# a_n173_n100# 0.00fF
C20 a_n129_n197# w_n311_n319# 0.06fF
C21 a_63_n197# w_n311_n319# 0.06fF
C22 a_114_n100# VSUBS 0.01fF
C23 a_18_n100# VSUBS 0.01fF
C24 a_n78_n100# VSUBS 0.01fF
C25 a_n173_n100# VSUBS 0.01fF
C26 a_63_n197# VSUBS 0.13fF
C27 a_n129_n197# VSUBS 0.13fF
C28 a_n33_131# VSUBS 0.13fF
C29 w_n311_n319# VSUBS 2.53fF
.ends

.subckt inverter in out vss vdd
XXM1 out vss in in vss vss out in sky130_fd_pr__nfet_01v8_BZBQCZ
XXM2 vss in vdd out in vdd in vdd out sky130_fd_pr__pfet_01v8_UTJXZH
C0 in vdd 0.82fF
C1 vdd out 0.65fF
C2 in out 0.57fF
C3 out vss 0.25fF
C4 in vss 3.26fF
C5 vdd vss 3.43fF
.ends

